US06339069B1
Liposomes were bound to adherent ECV304 cells via a biotin-streptavidin linkage. To this end DODAP/MeO-suc-AAPV-DOPE (1:1 mol:mol) liposomes were prepared with 0.3 mol % N-biotinyl caproylamine-PE (N-biotinyl-cap-PE) as well as fluorescent lipid probes or with encapsulated calcein. ECV304 cells that had been plated on glass coverslips in tissue culture plates were washed with HBSS buffer and then incubated sequentially at room temperature with biotin-wheat germ agglutinin (WGA) (20 ug/ml, obtained from Pierce, Rockford, Ill.) and streptavidin (40 ug/ml, obtained from Molecular Probes, Eugene, Oreg.) prepared in HBSS, 30 min/treatment. Cells were washed after each treatment. Liposomes were treated with or without elastase as described above. Certain aliquots of pretreated DODAP/MeO-suc-AAPV-DOPE (1:1 mol/mol) liposomes were freeze/thawed after dialysis and prior to addition to cells to release the liposomal contents. Such freeze/thawed liposomes were exposed to liquid nitrogen/37° C. water bath for 5 cycles. Self-quenching of calcein was reduced by approximately 85% (maximal FDQ determined by detergent solubilization) after freeze/thawing, indicating release of encapsulated calcein. In all cases, 50-100 nmol of liposomes were added to confluent ECV304 cell monolayers (1×105 cells/well of 24 well plate) and incubated in HBSS for 30 min at room temperature to promote N-biotinyl cap-PE binding to streptavidin. Unbound liposomes were removed by repeated washes. After the final wash, fresh HBSS buffer was added to all wells and cells were incubated at 37° C. for given times. Fluorescence was quantitated as described above. Calcein fluorescence was excited with the 488 nm line of a krypton/argon laser and observed at 522 nm emission

reactant | N-biotinyl caproylamine | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)NC(CCCCC)=O | C16H27N3O3S
reactant | calcein | C1=CC=C2C(=C1)C(=O)OC23C4=CC(=C(C=C4OC5=CC(=C(C=C35)CN(CC(=O)O)CC(=O)O)O)O)CN(CC(=O)O)CC(=O)O | C30H26N2O13
product | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
